US05009701
At 5° to 10° C., 10.4 g (0.04 mol) of 2-chloro-5-nitro-α-methylcinnamyl chloride in 100 ml of tetrahydrofuran was added to 4.6 g (0.08 mol) of alkylamine in 50 ml of tetrahydrofuran. After 2 hours the solvent was stripped off, and the remaining mixture was stirred into water. The solid which formed was isolated. Drying of the solid gave 8.1 g (81% of theory) of 2-chloro-5-nitro-α-methylcinnamic acid-N-allylamide of m.p. 111°-112° C.

reactant | 2-chloro-5-nitro-α-methylcinnamyl chloride | 0.04 mol, 10.4 g | ClC1=C(C=C(CCl)C)C=C(C=C1)[N+](=O)[O-] | C10H9Cl2NO2
reactant | water | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-chloro-5-nitro-α-methylcinnamic acid-N-allylamide | 8.1 g, 81% | C(C=C)NC(C(=CC1=C(C=CC(=C1)[N+](=O)[O-])Cl)C)=O | C13H13ClN2O3
